Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydrocodone
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None this hospitalization.
 
History of Present Illness:
___ is a ___ year old woman with metastatic 
neuroendocrine tumor of the rectum who is admitted from the ED 
with two days of progressive epigastric abdominal pain.

Pain began ___ after drinking lemonade. The pain is constant 
and gets up to ___ be worse after eating certain foods. 
She has been taking her home MS contin and oxycodone without 
significant relief.

She was seen in ___ clinic on ___ for consideration of 
C1D15 FOLFIRI. There, she reported this pain with associated 
nausea and vomiting. She was given 1L NS and 1mg IV dilaudid. 
SBP's dropped into the 70's and she was transferred to the ED.

In the ED, initial VS were pain 6, T 98.1, HR 70, BP 87/52, RR 
16, O2 98%RA. Initial labs notable for Na 140, K 4.4, HCO3 23, 
Cr 1.0, Ca 9.5, Mg 2.4, P 2.8, Ca 9.5, MG 2.4, P 2.8, ALT 42, 
AST 50, ALP 105, TBili 0.4, Albumin 4.4, WBC 3.4, HCT 33.1, PLT 
197, trop <0.01, lactate 1.2, UA negative. CT a/p showed no 
significant change - stable hepatic mets, left presacral soft 
tissue mass with involvement of left sacral neural foramina. She 
was given IVF, IV fentanyl, MS ___ 15 mg, and SC lovenox. VS 
prior to transfer were T 98.3, HR 65, BP 104/77, RR 14, O2 98%.

On arrival to the floor, patient reports pain, nausea, and 
vomiting as above. Last emesis ___, no blood. She has had 
poor po intake. No diarrhea, last BM on ___, although she is 
passing gas. No FC. No URTI. No dysphagia or odynophagia. No CP, 
SOB or cough. She has a history of GERD and does have frequent 
reflux symptoms. No new joint pains, swelling or rashes. Her 
typical cancer pain in her left hip and back is stable.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
The patient is a ___ woman with previously treated 
High-grade neuroendocrine tumor of the rectum in ___ 
treated in ___.

___ a mass that was found in her rectum/anus.  She states 
she initially presented with a hemorrhoid and constipation and 
the mass was found on exam.  She was diagnosed ___ and 
treated with carboplatin/etoposide through ___ with complete 
resolution. Patient had local recurrence in ___ and was 
treated with topotecan for 3 cycles followed by radiation 
therapy from ___. She received an additional cycle of 
topotecan on ___. PET/CT on ___ showed new liver mets and 
presacral soft tissue mass. She was then started on CAV for 2 
cycles (___).  She states that she did not have 
any follow-up imaging after that point.

She left ___ and did not have follow up with any oncologic 
providers since. Her port remained in place.

In ___ she presented to ___. She 
underwent CT scan there where she was found to have multiple 
liver lesions. She underwent biopsy which per discharge 
summaries at ___ states the findings were consistent with "small 
cell carcinoma" 

She was experiencing new lower abdominal, back and sacral pain 
with radiculopathy down the left leg and presented to ___ 
___ for the symptoms and an MRI was obtained which showed a 
5.1 x 3.4 x 3.4 cm left presacral mass at S1 and an S2.  She was 
prescribed oxycodone and hydromorphone q 4 hours and then sent 
to twice daily MC for evaluation.

She was admitted from ___ - ___ with new PE and 
liver metastasis which were biopsy confirmed as high-grade 
neuroendocrine carcinoma.

She was treated with carboplatin and etoposide on ___ with a 
dose of Neupogen on ___. Due to chronic HIV/HPV she was 
started on Dolutegravr, Truvada, Entecavir per ID. Radiation 
oncology evaluated her and due to her prior radiation could not 
safely implement sacral radiation.

Cycle #: 2 Day 1: ___ Carboplatin 4AUC and Etoposide 80 
mg/m2

___: Stopped Carboplatin and Etoposide due to tumor 
progression. 

___: Started on FOLFIRI chemotherapy, C1D1.

___: Missed C1D15 of FOLFIRI due to cough and URI.

PAST MEDICAL HISTORY: 
- Neuroendocrine carcinoma of rectum
- PE diagnosed in ___, on Lovenox
- GERD
- HIV ___ years
- HBV
- s/p C-section
- s/p hernia repair
 
Social History:
___
Family History:
No known family history of cancer. Mother still alive, 5 
siblings. Father died in ___.
 
Physical Exam:
========================
Admission Physical Exam:
========================
VS: T 98.3 HR 74 BP 93/62 RR 20 SAT 98% O2 on RA.
GENERAL: Very pleasant woman, appears overall well, but in 
moderate distress due to pain.
EYES: Anicteric sclerea, PERLL, EOMI.
ENT: Oropharynx clear without lesion, JVD not elevated.
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or 
gallops.
RESPIRATORY: Appears in no respiratory distress, clear to 
auscultation bilaterally, no crackles, wheezes, or rhonchi.
GASTROINTESTINAL: Soft bowel sounds; nondistended; soft, 
markedly tender in epigastrum and less so in RUQ without rebound 
or guarding; no hepatomegaly, no splenomegaly.
MUSKULOSKELATAL: Warm, well perfused extremities without lower 
extremity edema; normal bulk.
NEURO: Alert, oriented, CN II-XII intact, motor and sensory 
function grossly intact.
SKIN: No significant rashes.
LYMPHATIC: No cervical, supraclavicular, submandibular 
lymphadenopathy. No significant ecchymoses.

========================
Discharge Physical Exam:
========================
VS: Temp 98.0, BP 101/67, HR 68, RR 16, O2 sat 100% RA.
Exam otherwise unchanged except for mild and improved epigastric 
tenderness to palpation.
 
Pertinent Results:
===============
Admission Labs:
===============
___ 03:41AM BLOOD WBC-2.5* RBC-2.62* Hgb-8.6* Hct-26.9* 
MCV-103* MCH-32.8* MCHC-32.0 RDW-19.0* RDWSD-71.9* Plt ___
___ 03:41AM BLOOD Glucose-83 UreaN-4* Creat-0.9 Na-143 
K-4.4 Cl-111* HCO3-20* AnGap-12
___ 03:41AM BLOOD ALT-32 AST-38 LD(LDH)-260* AlkPhos-83 
TotBili-0.2
___ 12:40PM BLOOD Lipase-7
___ 12:40PM BLOOD cTropnT-<0.01
___ 03:41AM BLOOD Calcium-8.2* Phos-3.0 Mg-2.0
___ 12:52PM BLOOD Lactate-1.2

===============
Discharge Labs:
===============
___ 05:51AM BLOOD WBC-2.8* RBC-2.72* Hgb-9.0* Hct-28.0* 
MCV-103* MCH-33.1* MCHC-32.1 RDW-19.1* RDWSD-71.4* Plt ___
___ 05:51AM BLOOD Glucose-78 UreaN-3* Creat-0.9 Na-142 
K-4.2 Cl-108 HCO3-23 AnGap-11
___ 05:51AM BLOOD Calcium-8.6 Phos-3.1 Mg-1.9

=============
Microbiology:
=============
___ Urine Culture - Mixed Bacterial Flora
___ Blood Culture x 2 - Pending

========
Imaging:
========
CXR ___
Impression: No focal consolidation concerning for pneumonia.

CT Abdomen/Pelvis w/ Contrast ___
1. No significant change since the CT torso from ___. 
Grossly stable or minimally larger hepatic metastases and left 
presacral soft tissue mass, with involvement of the left sacral 
neural foramina.
2. No new findings detected. The gallbladder is unremarkable.
 
Brief Hospital Course:
___ is a ___ year old woman with metastatic 
neuroendocrine tumor of the rectum who is admitted from the ED 
with two days of progressive epigastric abdominal pain.

# Abdominal Pain:
# Nausea with Vomiting: Unclear etiology. No acute process on CT 
a/p and her labs, including lipase, LFT and chemistry panel 
relatively unremarkable. Likely due to GERD/gastritis as well as 
constipation exacerbating pain. Increased PPI to BID and added 
magic mouthwash. Increased bowel regimen. Dietary advice 
provided. Pain improved at time of discharge.

# Chronic Cancer-Associated Pain: Continue home MS contin and 
oxycodone.

# Metastatic Neuro-Endocrine Tumor: Will follow-up with 
Oncologist on ___ for next cycle of FOLFIRI.

# Hepatitis B:
# HIV: Continued home dolutregravir and Truvada.

# History of PE: Continued home lovenox.

====================
Transitional Issues:
====================
- Reflux and bowel medications increased.
- Please follow-up pending blood cultures from ___.
- Please ensure follow-up with Oncology.

# BILLING: 45 minutes spent completing discharge paperwork, 
counseling patient, and coordinating with outpatient providers.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dolutegravir 50 mg PO DAILY 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Enoxaparin Sodium 70 mg SC Q12H 
4. Morphine SR (MS ___ 30 mg PO QHS 
5. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
6. Prochlorperazine 10 mg PO Q6H:PRN nausea 
7. Senna 8.6 mg PO BID constipation 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
abdominal discomfort 
10. Omeprazole 40 mg PO DAILY 
11. Polyethylene Glycol 17 g PO DAILY constipation 
12. Ondansetron ODT ___ mg PO Q8H:PRN nausea 
13. LORazepam 0.5 mg PO DAILY:PRN anxiety 
14. Megestrol Acetate 400 mg PO DAILY 
15. Docusate Sodium 100 mg PO QHS
 
Discharge Medications:
1.  Bisacodyl 10 mg PO DAILY:PRN constipation 
RX *bisacodyl 5 mg Take ___ tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg Take 1 capsule by mouth twice daily. 
Disp #*60 Capsule Refills:*0 
3.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg Take 1 capsule by mouth twice daily. Disp 
#*60 Capsule Refills:*0 
4.  Polyethylene Glycol 17 g PO BID 
Decrease to once daily if loose stools. 
RX *polyethylene glycol 3350 17 gram Take 17g powder by mouth 
twice daily. Disp #*60 Packet Refills:*0 
5.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
abdominal discomfort 
RX *alum-mag hydroxide-simeth [Liquid Antacid] 200 mg-200 mg-20 
mg/5 mL Take ___ mL by mouth four times per day Disp #*360 
Milliliter Refills:*2 
6.  Dolutegravir 50 mg PO DAILY  
7.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
8.  Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time  
9.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
10.  Megestrol Acetate 400 mg PO DAILY  
11.  Morphine SR (MS ___ 30 mg PO QHS  
12.  Ondansetron ODT ___ mg PO Q8H:PRN nausea  
13.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate  
14.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
15.  Senna 8.6 mg PO BID constipation 
RX *sennosides [senna] 8.6 mg Take 1 tablet by mouth twice 
daily. Disp #*60 Tablet Refills:*0 
16.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Abdominal Pain
- Nausea/Vomiting
- Metastatic Neuroendocrine Tumor
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted to the hospital with 
abdominal pain. You had an abdominal CT scan which did now show 
any concerning signs to explain your pain. Your pain is likely 
related to reflux. You pain improved during your stay and you 
were discharged home.

It is best to avoid spicy and fatty foods as those have 
exacerbated your pain. Please try more soft and bland foods. You 
can take acid reducers as well. You did not want to take 
ranitidine.

You also had some constipation and your bowel medications were 
increased. If you develop loose stools you can decrease these 
medications.

Please follow-up with your appointments as below. You have been 
scheduled for your next chemotherapy on ___.

Please continue your prior home medications.

All the best,
Your ___ Team
 
Followup Instructions:
___